### PR TITLE
CERTS pov

### PR DESCRIPTION
**Pull request by williamdemeo**
# Description

Addresses second item of issue #467.

# Checklist

- [x] Commit sequence broadly makes sense and commits have useful messages
- [x] Code is formatted according to [CONTRIBUTING.md](https://github.com/input-output-hk/formal-ledger-specifications/blob/master/CONTRIBUTING.md)
- [x] Self-reviewed the diff

### CODE REVIEW

File: src/Ledger/Certs/Properties.agda [hunk 1]
```diff
@@ -131,3 +133,115 @@ instance
...
+  l : List DCert
+
+instance
+  _ = +-0-monoid
+
+  HasCoin-Map : ∀ {A} → ⦃ DecEq A ⦄ → HasCoin (A ⇀ Coin)
+  HasCoin-Map .getCoin s = ∑[ x ← s ] x
+
+≡ᵉ-getCoin : ∀ {A} → ⦃ _ : DecEq A ⦄ → (s s' : A ⇀ Coin) → s ˢ ≡ᵉ s' ˢ → getCoin s ≡ getCoin s'
+≡ᵉ-getCoin {A} ⦃ decEqA ⦄ s s' s≡s' = indexedSumᵛ'-cong {C = Coin} {x = s} {y = s'} s≡s'
```
Comment (WhatisRT) [inline src/Ledger/Certs/Properties.agda:149]: These are duplicated in `Ledger.Utxo`, either import them from there or move them into some file where both files import it from.

File: src/Ledger/Certs/Properties.agda [hunk 2]
```diff
@@ -131,3 +133,115 @@ instance
...
+    ∪ˡsingleton≡ : {m : A ⇀ Coin} {(a , c) : A × Coin} → getCoin (m ∪ˡ ❴ (a , c) ❵ᵐ) ≡ getCoin m + c
+    ∪ˡsingleton≡ {m} {(a , c)} = let open ≡-Reasoning in begin
+      getCoin (m ∪ˡ ❴ (a , c) ❵)
+        ≡⟨ gc-hom m ❴ (a , c) ❵ ⟩
+      getCoin m + getCoin{A = A ⇀ Coin} ❴ (a , c) ❵
+        ≡⟨ cong (getCoin m +_) (getCoin-singleton (a , c)) ⟩
+      getCoin m + c ∎
+
+
+module _ {gc-hom : (d₁ d₂ : Credential ⇀ Coin) → getCoin (d₁ ∪ˡ d₂) ≡ getCoin d₁ + getCoin d₂}
```
Comment (WhatisRT) [inline src/Ledger/Certs/Properties.agda:166]: This assumption is wrong, it only holds if the two maps have disjoint sets of keys. In particular the type of `CERTBASE-pov` is wrong because one of the sets of keys will actually always be a subset of the other (in practice).

File: src/Ledger/Certs/Properties.agda [hunk 3]
```diff
@@ -131,3 +133,115 @@ instance
...
+≡ᵉ-getCoin : ∀ {A} → ⦃ _ : DecEq A ⦄ → (s s' : A ⇀ Coin) → s ˢ ≡ᵉ s' ˢ → getCoin s ≡ getCoin s'
+≡ᵉ-getCoin {A} ⦃ decEqA ⦄ s s' s≡s' = indexedSumᵛ'-cong {C = Coin} {x = s} {y = s'} s≡s'
+
+module _ {A : Type} ⦃ _ : DecEq A ⦄
+  where
+  getCoin-singleton : ((a , c) : A × Coin) → indexedSumᵛ' id ❴ (a , c) ❵ ≡ c
+  getCoin-singleton _ = indexedSum-singleton' ⦃ M = +-0-commutativeMonoid ⦄ (finiteness _)
+
+  module _ {gc-hom : (d₁ d₂ : A ⇀ Coin) → getCoin (d₁ ∪ˡ d₂) ≡ getCoin d₁ + getCoin d₂} where
+    ∪ˡsingleton≡ : {m : A ⇀ Coin} {(a , c) : A × Coin} → getCoin (m ∪ˡ ❴ (a , c) ❵ᵐ) ≡ getCoin m + c
```
Comment (WhatisRT) [inline src/Ledger/Certs/Properties.agda:157]: This is only true if `a ∉ dom m`, otherwise the rhs is going to be `getCoin (m ∣ ❴ a ❵ ᶜ) + c` (which it also is in the other case actually). This follows from the wrong assumption, see below.

**Review by WhatisRT — CHANGES_REQUESTED** [review]

File: src/Ledger/Certs/Properties.agda (hunk 1 above)
Comment (williamdemeo) [reply src/Ledger/Certs/Properties.agda:151]: Can I really import `HasCoin-Map` and `≡ᵉ-getCoin` from `Utxo`?  Doesn't the `Utxo` module require different parameters than `Certs.Properties`?  When I import them and try to use `HasCoin-Map`, Agda can't find the right instance... (sigh).

Comment (williamdemeo) [reply src/Ledger/Certs/Properties.agda]: Okay, thanks.  I have yet to fix the duplication of `HasCoin-Map` and `≡ᵉ-getCoin`, but will do so tomorrow (Thursday).  In the meantime, if you could look over the rest of the PR... I left some assumptions outstanding that I use in the proof of `CERTBASE-pov`.  Hopefully I can return to these and prove some of them soon, but I need to move on to pov for `LEDGERS` now.  (`CERTBASE-pov` took way too long and seemed much harder than necessary/expected. 😓)

Comment (williamdemeo) [reply src/Ledger/Certs/Properties.agda]: @WhatisRT I've rewritten the proofs.  I hope the statement and the proofs are correct now.  I also moved the `HasCoin-Map` and `≡ᵉ-getCoin` instances into `Ledger.Prelude`, so I think this PR is ready for a second look, when you have time.

**Review by WhatisRT — APPROVED** [review]
The proof looks fine, just some cleanup left

File: src/Ledger/Certs/Properties.agda [hunk 4]
```diff
@@ -131,3 +135,142 @@ instance
...
+    rwds-∪ˡ≡sing-∪ˡ : rwds-∪ˡ-decomp ˢ ≡ᵉ ((rwds ∣ ❴ c ❵ ᶜ) ∪ˡ ❴ (c , 0) ❵ᵐ )ˢ
+    rwds-∪ˡ≡sing-∪ˡ = ≡ᵉ.trans rwds-∪ˡ-∪
+                              ( ≡ᵉ.trans (∪-cong th ≡ᵉ.refl (res-singleton'{m = rwds} $ proj₁ x))
+                                         (≡ᵉ.sym $ disjoint-∪ˡ-∪ disj) )
+  CERT-pov (CERT-pool x) = refl
+  CERT-pov (CERT-vdel x) = refl
+
+  module _
+    -- TODO: prove some or all of the following assumptions, needed for proof of `CERTBASE-pov`.
+    {sumConstZero  :  {A : Type} ⦃ _ : DecEq A ⦄ {X : ℙ A} → ∑[ x ← constMap X 0 ] x ≡ 0}
```
[the remark this answers is not in the document]
Comment (williamdemeo) [reply src/Ledger/Certs/Properties.agda:212]: ...out of habit, I suppose.  I'll make them explicit.

File: src/Ledger/Certs/Properties.agda [hunk 5]
```diff
@@ -131,3 +135,142 @@ instance
...
+        disj            = disjoint-sym th res-ex-disjoint
+      in
+        begin
+          getCoin rewards
+            ≡˘⟨ ≡ᵉ-getCoin rwds-∪ˡ-decomp rewards
+                ( ≡ᵉ.trans (disjoint-∪ˡ-∪ disj) (≡ᵉ.trans (∪-sym th) (res-ex-∪ decCC)) ) ⟩
+          getCoin rwds-∪ˡ-decomp
+            ≡⟨ indexedSumᵛ'-∪ (rewards ∣ dom wdrlsCC ᶜ) (rewards ∣ dom wdrlsCC) disj ⟩
+          getCoin ((rewards ∣ dom wdrlsCC ᶜ)) + getCoin (rewards ∣ dom wdrlsCC )
+            ≡⟨ cong (getCoin ((rewards ∣ dom wdrlsCC ᶜ)) +_)
```
[the remark this answers is not in the document]
Comment (williamdemeo) [reply src/Ledger/Certs/Properties.agda:245]: I'll make the change myself to avoid having to do merge conflict resolution.

File: src/Ledger/Certs/Properties.agda [hunk 6]
```diff
@@ -131,3 +135,142 @@ instance
...
+
+    CERTBASE-pov : {s s' : CertState} → Γ ⊢ s ⇀⦇ _ ,CERTBASE⦈ s' → getCoin s ≡ getCoin s' + getCoin (CertEnv.wdrls Γ)
+
+    CERTBASE-pov  {Γ = Γ}{s = ⟦ ⟦ voteDelegs , stakeDelegs , rewards ⟧ᵈ , stᵖ , ⟦ dreps , ccHotKeys ⟧ᵛ ⟧ᶜˢ}
+                  {⟦ ⟦ voteDelegs , stakeDelegs , rewards' ⟧ᵈ , stᵖ , stᵍ ⟧ᶜˢ}
+                  (CERT-base {pp}{vs}{e}{dreps}{wdrls} (_ , wdrlsCC⊆rwds)) =
+      let
+        module ≡ᵉ       = IsEquivalence (≡ᵉ-isEquivalence th  {Credential × Coin})
+        wdrlsCC         = mapˢ (map₁ RwdAddr.stake) (wdrls ˢ)
+        wdrlsCC≡wdrls   = ≡ᵉ-getCoinˢ (wdrls ˢ) {RwdAddr.stake} {injOn{wdls = wdrls}}
```
[the remark this answers is not in the document]
Comment (williamdemeo) [reply src/Ledger/Certs/Properties.agda:232]: I've removed the definition and placed it inline since it's only used in one place.
